US08703961B2
126 mg (0.50 mmol) of 2-chloro-5-(4-fluorophenyl)-4H-pyrrolo[2,3-d]thiazole are suspended in 2 ml of morpholine in a microwave vessel and irradiated at 130° C. for 2 h and subsequently purified directly by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1/1), giving 139 mg (0.45 mmol, 91%) of 5-(4-fluorophenyl)-2-morpholin-4-yl-4H-pyrrolo[2,3-d]thiazole as beige crystals; m.p. 240-248;

reactant | 2-chloro-5-(4-fluorophenyl)-4H-pyrrolo[2,3-d]thiazole | 0.50 mmol, 126 mg | ClC=1SC2=C(N1)NC(=C2)C2=CC=C(C=C2)F | C11H6ClFN2S
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
product | 5-(4-fluorophenyl)-2-morpholin-4-yl-4H-pyrrolo[2,3-d]thiazole | 0.45 mmol, 139 mg, 91% | FC1=CC=C(C=C1)C1=CC2=C(N=C(S2)N2CCOCC2)N1 | C15H14FN3OS
